US06432993B1
t-Butyl N-[2-amino-5-(4-hydroxyphenoxy)phenyl]-N-methylcarbamate
By using 3.32 g of t-butyl N-[5-(4-benzyloxyphenoxy)-2-nitrophenyl]-N-methylcarbamate, 0.39 g of 10% palladium on carbon, 100 ml of methanol and 100 ml of 1,4-dioxane, reaction and purification were carried out in a similar manner to that described in Reference Example 7, whereby 2.40 g of the title compound were obtained.

reactant | t-butyl N-[5-(4-benzyloxyphenoxy)-2-nitrophenyl]-N-methylcarbamate | 3.32 g | C(C1=CC=CC=C1)OC1=CC=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=C1 | C25H26N2O6
reactant | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.39 g | [Pd] | Pd
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | t-Butyl N-[2-amino-5-(4-hydroxyphenoxy)phenyl]-N-methylcarbamate | 2.40 g | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C18H22N2O4
